US04343939
Bis(p-dimethylaminophenyl)Methoxy Acetic Acid, Benzyl Ester
A solution of 4,4'-bis(N,N-dimethylamino)benzhydrol, methyl ether (11.0 g, 0.039 mole), benzyl glycolate (6.6 g, 0.039 mole), 90 ml of tetrahydrofuran, 200 ml of hexane, and 10 drops of methanesulfonic acid was refluxed for 6 hours, replacing solvent as distillate was removed; then, 10 drops of tetramethylguanidine was added to discharge the color and the reaction mixture was filtered hot and cooled. A white solid formed which was filtered, washed with petroleum ether and then recrystallized from 4/1 hexane/acetone. The resulting white crystalline product had a mp 101.8°-103° C.

reactant | 4,4'-bis(N,N-dimethylamino)benzhydrol | CN(C)C1=CC=C(C(C2=CC=C(C=C2)N(C)C)O)C=C1 | C17H22N2O
reactant | methyl ether | 0.039 mole, 11.0 g | COC | C2H6O
reactant | benzyl glycolate | 0.039 mole, 6.6 g | C(CO)(=O)OCC1=CC=CC=C1 | C9H10O3
reactant | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
catalyst | methanesulfonic acid | 10 drops | CS(=O)(=O)O | CH4O3S
solvent | hexane | 200 ml | CCCCCC | C6H14
product | Bis(p-dimethylaminophenyl)Methoxy Acetic Acid, Benzyl Ester | CN(C1=CC=C(C=C1)C(OCC(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)N(C)C)C | C26H30N2O3
